US06620839B2
(3R)-1-(3-{[4′-(1-pyrrolidinylcarbonyl)[1,1′-biphenyl]-4-yl]oxy}propyl)-3-pyrrolidinol
1-{[4′-(3-Chloropropoxy)[1,1′-biphenyl]-4-yl]carbonyl}pyrrolidine and (3R)-3-pyrrolidinol were processed as described in Example 159 to provide the title compound.

reactant | 1-{[4′-(3-Chloropropoxy)[1,1′-biphenyl]-4-yl]carbonyl}pyrrolidine | ClCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1CCCC1 | C20H22ClNO2
reactant | (3R)-3-pyrrolidinol | N1C[C@@H](CC1)O | C4H9NO
product | (3R)-1-(3-{[4′-(1-pyrrolidinylcarbonyl)[1,1′-biphenyl]-4-yl]oxy}propyl)-3-pyrrolidinol | N1(CCCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1C[C@@H](CC1)O | C24H30N2O3
